US07078428B2
N-[(7-Fluoro-2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine is prepared as described in Example 1, starting with 1.29 g of potassium tert-butoxide, 1.32 g of guanidinium chloride and 0.67 g of ethyl (7-fluoro-2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetate. The reaction mixture is stirred at a temperature in the region of 20° C. for 20 hours, and is then filtered. The filtrate is taken up in 40 cm3 of water and 60 cm3 of ethyl acetate. After separation of the phases by settling, the organic phase is separated out and the aqueous phase is extracted with twice 60 cm3 of ethyl acetate. The organic extracts are combined, dried over sodium sulfate, filtered and concentrated to dryness under reduced pressure (0.6 kPa) at a temperature in the region of 55° C. The evaporation residue is taken up in diethyl ether and concentrated to dryness again under the same conditions, and then taken up in water and concentrated to dryness again under the same conditions. The residue is purified by chromatography under argon pressure (50 kPa), on a column of silica gel (particle size 15-40 μm), eluting with a mixture of dichloromethane/methanol (90/10 by volume). The fractions comprising the expected product are combined and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 20° C. The residue is taken up in diisopropyl ether, triturated, filtered and then dried. 0.15 g of N-[(7-fluoro-2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine is thus obtained in the form of a pale yellow solid melting at 205° C. 1H NMR (300 MHz, d6-(CD3)2SO, δ in ppm): 0.74 (d, J=6.5 Hz: 3H); 0.89 (d, J=6.5 Hz: 3H); 2.06 (mt: 1H); 2.38 (dd, J=15 and 7.5 Hz: 1H); 2.90 (dd, J=15 and 4.5 Hz: 1H); 3.04 (dd, J=13.5 and 4.5 Hz: 1H); 3.56 (dd, J=13.5 and 10 Hz: 1H); 5.23 (dd, J=7.5 and 4.5 Hz: 1H); from 6.20 to 7.00 (broad multiplet: 2H); from 7.35 to 7.60 (mt: 3H); from 7.50 to 8.20 (broad multiplet: 2H).

reactant | potassium tert-butoxide | 1.29 g | CC(C)([O-])C.[K+]
reactant | guanidinium chloride | 1.32 g | [Cl-].NC(=[NH2+])N
reactant | ethyl (7-fluoro-2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetate | 0.67 g | FC=1C=CC=C2C(N(C(C12)CC(=O)OCC)CC(C)C)=O | C16H20FNO3
product | N-[(7-fluoro-2-isobutyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)acetyl]guanidine | 0.15 g | FC=1C=CC=C2C(N(C(C12)CC(=O)NC(=N)N)CC(C)C)=O | C15H19FN4O2
